US06420566B2
A solution of 3.54 g of 2-amino-2-(3-bromophenyl)-1-ethanol, in 20 cm3 of ethanol containing 0.18 cm3 of tert-butyl isothiocyanate is stirred at a temperature in the region of 20° C. for 5 hours. After concentration of the reaction mass under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained is taken up in 25 cm3 of petroleum ether. The resulting crystals are spin-filtered, washed with twice 25 cm3 of petroleum ether and then dried under reduced pressure (5 kPa) at a temperature in the region of 20° C. 4 g of N-(tert-butyl)-N′-[2-hydroxy-1-(3-bromophenyl)ethyl]thiourea are obtained in the form of a white solid (Rf=0.68 in a 40/5/0.5 by volume dichloromethane/methanol/aqueous ammonia mixture, on a Merck 60F254R silica plate)

reactant | 2-amino-2-(3-bromophenyl)-1-ethanol | 3.54 g | NC(CO)C1=CC(=CC=C1)Br | C8H10BrNO
reactant | tert-butyl isothiocyanate | C(C)(C)(C)N=C=S | C5H9NS
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | N-(tert-butyl)-N′-[2-hydroxy-1-(3-bromophenyl)ethyl]thiourea | 4 g | C(C)(C)(C)NC(=S)NC(CO)C1=CC(=CC=C1)Br | C13H19BrN2OS
